US08048982B2
In a four-neck flask having a capacity of 500 mL, 19.6 g (175 mmol) of t-butokypotassium and 300 mL of t-butylalcohol were put in, agitated at a temperature of 82° C. for 30 minutes, dropped with 26.5 g (262 mmol) of acetylacetone at the temperature for 12 minutes, and then agitated for 2 hours. Thereafter, at 81 to 83° C., 25.0 g (87.3 mmol) of 1,3-bis(bromomethyl)-5-t-butylbenzene was added for 30 minutes, and then agitated for 1 hour. Thereafter, 3.49 g (21.0 mmol) of potassium iodide was added at 82° C., and then agitated for 3.5 hours. After the solution was cooled down to a room temperature, it was added with 100 mL of diethylether, and 115 mL of water to be subjected to an extraction operation, and then an organic layer was separated from a water layer. The organic layer obtained was added with 30 mL of saturated aqueous salt solution and agitated, and then an organic layer was separated from a water layer, dried with anhydrous sodium sulfate, and then concentrated by distilling off the solvent to obtain a crude product. The crude product obtained was purified with a silica gel column chromatography to obtain 21.9 g (yield 69%) of 3,3′-[5-t-butyl-1,3-phenylenebis(methylene)]bis(2,4-pentanedione)

reactant | t-butylalcohol | 300 mL | C(C)(C)(C)O | C4H10O
reactant | acetylacetone | 262 mmol, 26.5 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | 1,3-bis(bromomethyl)-5-t-butylbenzene | 87.3 mmol, 25.0 g | BrCC1=CC(=CC(=C1)C(C)(C)C)CBr | C12H16Br2
reactant | potassium iodide | 21.0 mmol, 3.49 g | [I-].[K+]
reactant | diethylether | 100 mL | C(C)OCC | C4H10O
solvent | water | 115 mL | O | H2O
product | 3,3′-[5-t-butyl-1,3-phenylenebis(methylene)]bis(2,4-pentanedione) | 21.9 g, yield 69% | C(C)(C)(C)C=1C=C(C=C(C1)CC(C(C)=O)C(C)=O)CC(C(C)=O)C(C)=O | C22H30O4
